US07138425B2
d) 2-(3-Nitro-6-methoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 40a), from 2-(3-nitro-6-fluorophenyl)-5-phenylbenzoxazole (500 mg, 1.5 mmol) and sodium methoxide (161 mg, 3.0 mmol) the subtitle compound was obtained (450 mg, 87%). 1H NMR (DMSO) δ 8.88(d, 1H), 8.48(dd, 1H), 8.12(d, 1H), 7.89(d, 1H), 7.75(m, 3H), 7.53(d, 1H), 7.50(t, 2H), 7.40(d, 1H), 4.11(s, 3H).

reactant | 2-(3-nitro-6-fluorophenyl)-5-phenylbenzoxazole | 1.5 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
reactant | sodium methoxide | 3.0 mmol, 161 mg | C[O-].[Na+]
product | 2-(3-Nitro-6-methoxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H14N2O4
